US04982008
Bromine (140 g) was added dropwise to a 760 ml of dichloroethane solution containing 180 g of 1-(2,2-dimethoxyethoxy)-2,3-dimethylbenzene while stirring and cooling (ice bath) and maintaining the temperature of the reaction mixture not exceeding 10° C. After stirring for 30 minutes after completion of the addition, the reaction mixture was condensed under reduced pressure (a temperature of 40° C. or lower). The condensate was added dropwise in a solution comprising 37 g of sodium hydroxide dissolved in 185 g of methanol while stirring. Stirring was continued for one hour after completion of the addition, methanol was removed under reduced pressure, and 30 ml of dichloroethane and 570 ml of water were added to the residue and then the mixture was separated with each other. The organic layer was condensed under reduced pressure, a resulting brownish oil was distilled under reduced pressure to give 228 g of 1-bromo-4-(2,2-dimethoxyethoxy)-2,3-dimethylbenzene. Boiling point: 128° to 131° C./0.5 mmHg; Melting point: 40° to 41° C.; and Yield: 92%.

reactant | Bromine | 140 g | BrBr | Br2
reactant | dichloroethane | 760 ml | ClC(C)Cl | C2H4Cl2
reactant | 1-(2,2-dimethoxyethoxy)-2,3-dimethylbenzene | 180 g | COC(COC1=C(C(=CC=C1)C)C)OC | C12H18O3
reactant | sodium hydroxide | 37 g | [OH-].[Na+]
solvent | methanol | 185 g | CO | CH4O
product | 1-bromo-4-(2,2-dimethoxyethoxy)-2,3-dimethylbenzene | 228 g, Yield: 92% | BrC1=C(C(=C(C=C1)OCC(OC)OC)C)C | C12H17BrO3
